US09079866B2
2-Bromo-N-(trans-4-hydroxycyclohexyl)benzenesulfonamide
To a 20 mL vial were added a stir-bar, trans-4-aminocyclohexanol (683 mg, 4.50 mmol), DMF (5 mL), and DIPEA (2.0 mL, 12 mmol). The mixture was then treated with 2-bromobenzene-1-sulfonyl chloride (1.00 g, 3.93 mmol) and the mixture stirred for 2 hours before subjecting the vial's content to FCC to give the title compound. (978 mg, 74%). MS (ESI): mass calcd. for C12H16BrNO3S 333.00, m/z found 334.0 [M+H]+; 1H NMR (600 MHz, CDCl3) δ 8.12 (dd, J=7.8, 1.7, 1H), 7.70 (dd, J=7.8, 1.2, 1H), 7.49-7.43 (m, 1H), 7.43-7.37 (m, 1H), 5.10 (d, J=7.5, 1H), 3.62-3.47 (m, 1H), 3.11-3.01 (m, 1H), 2.12 (s, 1H), 1.91-1.75 (m, 4H), 1.31-1.15 (m, 4H).

reactant | trans-4-aminocyclohexanol | 4.50 mmol, 683 mg | N[C@@H]1CC[C@H](CC1)O | C6H13NO
reactant | DIPEA | 12 mmol, 2.0 mL | CCN(C(C)C)C(C)C | C8H19N
reactant | 2-bromobenzene-1-sulfonyl chloride | 3.93 mmol, 1.00 g | BrC1=C(C=CC=C1)S(=O)(=O)Cl | C6H4BrClO2S
solvent | DMF | 5 mL | CN(C)C=O | C3H7NO
product | 2-Bromo-N-(trans-4-hydroxycyclohexyl)benzenesulfonamide | BrC1=C(C=CC=C1)S(=O)(=O)N[C@@H]1CC[C@H](CC1)O | C12H16BrNO3S
